US07230011B2
4-Iodobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using 4-Iodobenzenesulfonyl chloride (347 mg, 1.15 mmol) in THF (4 mL), 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (220 mg, 0.96 mmol) in 0.2 N sodium hydroxide (5.2 mL, 1.05 mmol) and THF (4 mL) gave 470 mg of an off white solid. The crude product was recrystallized from ethyl acetate/hexanes to give 404 mg (85%) of tan crystals: mp=174-176° C.; MS(m/e): 495 (M−1); Calculated for C20H21N2O3S: Calcd: C, 48.40; H, 4.26; N, 5.64. Found: C, 48.74; H, 4.20; N, 5.59.

reactant | 4-Iodobenzenesulfonyl chloride | 1.15 mmol, 347 mg | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 0.96 mmol, 220 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | sodium hydroxide | 1.05 mmol, 0.2 N, 5.2 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-Iodobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 404 mg, 85% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=C(C=C1)I | C20H21IN2O3S
